Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Seroquel
 
Attending: ___.
 
Chief Complaint:
fall/renal failure
 
Major Surgical or Invasive Procedure:
Reduction of right ___ fracture
 
History of Present Illness:
___ year old male hx of HIV (last CD4 653, VL undetectable), type 
II DM (a1c 5.9), and CKD (last Cre 1.85) presenting after 2 
falls over the past 2 days (8 falls since last ___). He was 
referred into the ED by his PCP. The patient reports that his 2 
falls have resulted in facial trauma. He believes that he "gets 
going to fast." He does not often break his fall and has 
suffered head trauma as a result. He thinks he passes out prior 
to the fall but denies postictal period, bowel/bladder 
incontenence, lip biting, or limb shaking. He denies associated 
chest pain, palpitations, lightheadedness. Of note, he has had 8 
falls since ___, all similar in nature. He does report taking 
"a pink pill for pain" on the night before his 2 most recent 
falls.  
He also reports 2 episodes of "losing his way" in the last 2 
weeks. He suddently doesn't recognize his surrounding. This can 
last up to 15 minutes before he finds his way.  
The patient has also been noted to have an uptrending Cre. Today 
it was 2.5, up from 1.85 most recently. He reports no new meds 
or NSAID use. He feels that he is urinating normally with no 
issue initating stream, change in urine color, or dysuria.  
In the ED, pt was noted to have swollen R wrist. Xray 
demonstrated impacted fracture of distal radius, which was 
reduced by ortho. CT head was negative for acute process as was 
CT spine. CXR showed no acute process. Intial vitals were: 98.6 
65 96/65 18 99% ra. Labs were significant for Cre 2.5 (up from 
1.7). HCT 40 at baseline  
Patient was given percocet ___.  
 
Review of Systems:  
Otherwise negative in detail
 
Past Medical History:
HTN  
HLD  
HIV  
CKD
CAD
DMII
 
Social History:
___
Family History:
No family hx of sudden cardiac death or dementia 
 
Physical Exam:
ON ADMISSION:
=================================
98.1 122/51 67 21 100% RA  
General- NAD  
HEENT- EOMI, PERRL, MMM, R eye ecchymosis and swelling, scrapes 
on forehead and nose  
Neck- supple with no spinal tenderness and good rom  
Lungs- CTAB  
CV- RRR, no m/r/g  
Abdomen- s/nt/nd normoactive bs  
GU- no foley  
Ext- no edema, abrasions on knees bilaterally, right wrist in 
cast  
Neuro- A&O x 3, CN II-XII in tact, ___ strength throughout and 
sensation to light touch in tact (romberg, pronator drift, and 
gait deferred at 3am)  

ON DISCHARGE:
=================================
VS: 98.7 105/54 61 18 99RA
General: Alert, interactive, NAD
HEENT: Superficial abrasions to the Rt forehead and nose, no 
step-offs or deformities, sclera anicteric, MMM, oropharynx 
clear  
Neck: supple, no LAD  
Lungs: CTAB, no wheezes, rales, rhonchi  
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: soft, NTND, +BS, no rebound tenderness or guarding, no 
HSM
Ext: R arm in brace to mid-forearm, warm, well perfused 
extremities, 2+ pulses, no clubbing, cyanosis or edema  
Skin: superficial facial trauma as noted above, no other rashes 
or lesions
Neuro: A and O x3, grossly non-focal
Psych: Alert, inattentive but redirectable, difficulty with 
short-term recall, disorganized thinking.

 
Pertinent Results:
ON ADMISSION:
================================
___ 07:25PM BLOOD WBC-7.5 RBC-4.00* Hgb-13.1* Hct-40.0 
MCV-100* MCH-32.7* MCHC-32.7 RDW-13.4 Plt ___
___ 09:15PM BLOOD Glucose-118* UreaN-45* Creat-2.5* Na-137 
K-4.6 Cl-102 HCO3-23 AnGap-17
___ 09:15PM BLOOD ALT-25 AST-43* LD(LDH)-216 CK(CPK)-470* 
AlkPhos-100 TotBili-0.5
___ 09:15PM BLOOD VitB12-391 Folate-11.2
___ 09:15PM BLOOD TSH-2.1
___ 06:40AM BLOOD CK-MB-5 cTropnT-<0.01

ON DISCHARGE:
================================
___ 07:25AM BLOOD WBC-6.1 RBC-3.95* Hgb-13.0* Hct-38.7* 
MCV-98 MCH-33.0* MCHC-33.6 RDW-12.9 Plt ___
___ 07:25AM BLOOD Glucose-166* UreaN-41* Creat-1.4* Na-139 
K-3.7 Cl-100 HCO3-28 AnGap-15
___ 07:25AM BLOOD Calcium-9.4 Phos-2.5* Mg-2.2

STUDIES:
================================
RIGHT WRIST XR (___)
  
FINDINGS:  There is an impacted fracture of the distal radius 
with dorsal 
angulation of the distal fragment.  No definite intra-articular 
extension is seen.  The ulna appears intact.  The scaphoid also 
appears intact. 
IMPRESSION:  Impacted distal radial fracture with dorsal 
angulation. 

CXR (___)
PA and lateral views of the chest provided demonstrate no focal 
consolidation, effusion or pneumothorax.  Cardiomediastinal 
silhouette is 
normal.  Bony structures appear intact.  DISH-related changes of 
the lower T-spine noted.  Angulation of right or posterolateral 
ribs appears stable and may represent old trauma. 

CT C-SPINE (___)
FINDINGS:  No acute fracture or vertebral malalignment is seen.  
There is no prevertebral soft tissue swelling.  There is 
preservation of normal cervical lordosis.  Mild multilevel 
degenerative changes are seen throughout the C-spine, with mild 
disc bulges at multiple levels.  CT is not able to provide 
intrathecal detail comparable to MRI, but the visualized outline 
of the thecal sac appears unremarkable.  No lymphadenopathy is 
present by CT size criteria.  The visualized lung apices are 
clear.  A small 6mm thyroid nodule is seen in 
the right thyroid lobe.   
IMPRESSION:  No acute fracture or vertebral malalignment. 

CT HEAD W/O CONTRAST (___)
There is no evidence of hemorrhage, edema, mass effect, or 
infarction.  Prominent ventricles and sulci suggest age related 
involutional changes or atrophy.  The basal cisterns appear 
patent and there is preservation of gray-white matter 
differentiation.  
  
No fracture is identified.  Visualized paranasal sinuses, 
mastoid air cells, and middle ear cavities are clear.  The 
globes are intact.  
IMPRESSION:  No acute intracranial process.  

RIGHT WRITST XR (___)
Interval reduction of a distal right radius fracture with 
minimal volar 
angulation. 

ECHO (___)
The left atrial volume is mildly increased. No atrial septal 
defect is seen by 2D or color Doppler. The estimated right 
atrial pressure is ___ mmHg. Left ventricular wall thicknesses 
are normal. The left ventricular cavity size is normal. Overall 
left ventricular systolic function is normal (LVEF>55%). There 
is no left ventricular outflow obstruction at rest or with 
Valsalva. Right ventricular chamber size and free wall motion 
are normal. The diameters of aorta at the sinus, ascending and 
arch levels are normal. The aortic valve leaflets (3) are mildly 
thickened. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Trivial mitral regurgitation is seen. There is 
moderate pulmonary artery systolic hypertension. There is an 
anterior space which most likely represents a prominent fat pad. 


IMPRESSION: Normal biventricular size and function, with 
estimated LVEF >60%. No clinically significant valvular disease 
is seen. No evidence of LVOT obstruction at rest or with 
Valsalva. Moderate pulmonary artery systolic hypertension.

RENAL US (___)
The right kidney measures 11.4 cm and the left kidney measures 
11.2 cm.  There is no hydronephrosis and no perinephric fluid 
collection is identified.  A tiny simple cortical cyst is seen 
in the left kidney measuring 0.5 x 0.4 x 0.5 cm.  A small 
parapelvic cyst is seen in the left kidney measuring 1.2 x 0.9 x 
1.4 cm.  No stone or suspicious solid renal mass is identified. 
Transverse and sagittal images were obtained of the urinary 
bladder which is distended.  The bladder is normal in 
appearance.  On postvoid imaging there is a large residual of 
257 cc. 
  
IMPRESSION: 
1. No hydronephrosis. Two small simple left renal cysts are 
noted. 
2. Large postvoid residual in the urinary bladder of 257 cc. 

CAROTID US (___)
Mild heterogeneous plaque is noted within the carotid systems 
bilaterally. On the right side, the peak systolic/diastolic 
velocities were 97/13 cm/sec in the proximal ICA, 96/17 cm/sec 
in the mid ICA, as well as 111/24 cm/sec in the distal right 
ICA.  Additionally, peak systolic velocity in the right common 
carotid artery was 118 cm/sec and peak systolic velocity in the 
right external carotid artery was 93 cm/s.  The right vertebral 
artery demonstrates antegrade flow with a peak systolic velocity 
of 51 cm/sec.  The right ICA/CCA ratio was 0.94. 
On the left side, the peak systolic/diastolic velocities were 
89/18 cm/sec in the proximal ICA, 84/18 cm/sec in the mid ICA, 
as well as 77/25 cm/sec in the distal left ICA.  Additionally, 
peak systolic velocity in the left common carotid artery was 111 
cm/sec and peak systolic velocity in the left external carotid 
artery was 125 cm/s.  The left vertebral artery demonstrates 
antegrade flow with a peak systolic velocity of 47 cm/sec.  The 
left ICA/CCA ratio was 0.8. 
  
IMPRESSION: 
No evidence of hemodynamically significant internal carotid 
stenosis on either side. 

 
Brief Hospital Course:
Mr. ___ is an ___ male with a history of HIV (CD4 
653, VL undetectable), T2DM (a1c 5.9) and CKD (creatinine 1.85) 
who presents for evaluation of recurrent mechanical falls versus 
syncope, episodes of confusion and worsening renal failure.

#) Recurrent mechanical falls:
Falls likely secondary to mechanical falls secondary to sensory 
deficits and unsteady gait. The patient was also found to have 
orthostatic hypotension, which could have contributed to his 
unsteady gait as well. Cardiac processes, including arrhythmia, 
MI, and valvular disease were ruled out as the patient had no 
events on telemetry, troponins <0.01 x2, no EKG changes, and 
echo did not reveal any valvular disease. Neurologic processes 
were ruled out with negative CT head and carotid ultrasound.  
The patient was evaluated by physical therapy, who observed poor 
gait. The patient will be discharged to rehab for further 
functional mobility training, gait training, and endurance 
training. 

# Right ___ fracture:
Patient sustained a right ___ fracture s/p fall. The patient 
was seen by orthopedics and his fracture was reduced. 
Unfortunately, in the setting of delirium, the patient pulled 
off his cast twice, requiring repeat reduction each time. 
Subsequent x-rays showed a greater degree of impaction and 
dorsal angulation. As the patient continued to remove his cast, 
orthopedics placed the patient's right arm in a splint. He was 
also started on vitamin C, D, and calcium for bone health. The 
patient will follow up with orthopedics as an outpatient. He 
should avoid weight bearing at the wrist. He can bear weight at 
the elbow. The patient was counseled to avoid NSAIDs due to 
chronic kidney disease. His pain can be managed with tylenol. 

#) Acute on chronic kidney disease:
Patient has a history of chronic kidney disease with a baseline 
creatinine of 1.85. On presentation, creatinine was elevated to 
2.5. Patient denied any decreased fluid intake. Urine 
electrolytes were consistent with prerenal etiology. Renal 
ultrasound was negative for an obstructive etiology. His kidney 
function rapidly improved with IV fluids and returned below 
baseline at the time of discharge. 

#) Delirium:
The patient became confused and delirious on day 2 of 
hospitalization. As the patient was at his baseline initially, 
the cause of his acute delirium was thought to be due to his 
hospitalization and being in an unfamiliar situation. Per HCP, 
the patient is independent and organized at baseline. Geriatrics 
and psychiatry were consulted for management of delirium. The 
patient was started on seroquel 12.5mg BID with PRNs for 
agitation. The patient developed a drug rash 1 day after 
starting seroquel. As the patient's delirium was resolving, 
psychiatry recommended zyprexa 2.5mg PRN for agitation. Serial 
EKGs were checked, his QTc ranged from 450-460. 

#) ? Dementia:
The patient reports two recent events where he has become 
confused and lost his way in familiar environments. His health 
care proxy was able to verify this. CT head was negative and 
admission neuro exam was nonfocal. As the patient became 
delirious on day 2 of hospitalization, it was difficult to 
further evaluate for dementia. TSH and B12 were negative. RPR 
was also negative. DDx includes Alzheimer's disease, 
microvascular disease, and HIV encephalopathy. The patient will 
require further workup including neuropsychiatric testing and 
possible MRI as an outpatient. 

#) HTN: 
The patient was found to be orthostatic and symptomatic on 
admission. Therefore valsartan was discontinued. He remained 
normotensive. Consider restarting valsartan should he become 
hypertensive. 

#) Hyperlipidemia
Mr. ___ has a history of hyperlipidemia controlled with 
atorvastatin and fenofibrate. Atrovastatin was continued during 
this hospilization and fenofibrate was held. He was also 
continued on daily aspirin.

#) HIV on HAART
Mr. ___ has a history of HIV infection, diagnosed in ___, 
well controlled on highly active antiretroviral therapy. Most 
recent CD4 count in ___ was 653. A viral load was checked 
during hospitalization, which is pending at discharge. During 
this hospitalization he was continued on his usual HAART regimen 
of truvada, norvir and lexiva.
 
#) Diabetes mellites, type II
Mr. ___ has a history of non-insulin dependent type II 
diabetes well controlled on glipizide. During this admission, 
glipizide was held and he was put on an insulin sliding scale. 
Blood sugars were well controlled.

TRANSITIONAL ISSUES: 
- The patient will require neuropsychiatry testing at rehab or 
as an outpatient to evaluate for dementia. Geriatrics recommends 
psychiatry follow up as an outpatient.
- No weight bearing in right wrist, ok to bear weight at elbow. 
The patient will follow up with orthopedics as an outpatient.
- Losartan held on admission as patient with orthostatic 
hypotension. Consider restarting as an outpatient if patient 
becomes hypertensive. 
- Patient developed a rash after receiving seroquel. This has 
been listed as an allergy. 
- Viral load pending at discharge. 
- Code status DNR/DNI.
- Health care proxy, ___, ___. 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Valsartan 80 mg PO DAILY 
2. Fosamprenavir 700 mg PO Q12H 
3. RiTONAvir 100 mg PO BID 
4. Emtricitabine-Tenofovir (Truvada) 1 TAB PO Q48H 
5. Atorvastatin 40 mg PO DAILY 
6. fenofibrate 48 mg oral DAILY 
7. GlipiZIDE XL 10 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Qualaquin (quiNINE sulfate) 324 mg oral HS:PRN leg cramps 
10. Testim (testosterone) 50 mg/5 gram (1 %) transdermal QD 
11. Cyclobenzaprine 10 mg PO HS:PRN low back pain 
12. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN low 
back pain 
13. Sildenafil 50 mg PO PRN ___ before intercourse as needed 
14. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. Emtricitabine-Tenofovir (Truvada) 1 TAB PO Q48H 
4. Fosamprenavir 700 mg PO Q12H 
5. Multivitamins W/minerals 1 TAB PO DAILY 
6. RiTONAvir 100 mg PO BID 
7. Acetaminophen 325-650 mg PO Q6H:PRN pain 
Do not exceed 3g per day 
8. Calcium Carbonate 500 mg PO BID 
9. Vitamin D 1000 UNIT PO DAILY 
10. Cyclobenzaprine 10 mg PO HS:PRN low back pain 
11. fenofibrate 48 mg oral DAILY 
12. GlipiZIDE XL 10 mg PO DAILY 
13. Qualaquin (quiNINE sulfate) 324 mg ORAL HS:PRN leg cramps 
14. Sildenafil 50 mg PO PRN ___ before intercourse as needed 
15. Testim (testosterone) 50 mg/5 gram (1 %) transdermal QD 
16. Ascorbic Acid ___ mg PO DAILY 
17. OLANZapine (Disintegrating Tablet) 2.5 mg PO QHS:PRN 
agitation 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses: 
Mechanical fall 
Right ___ fracture  
Acute on chronic kidney disease 
 
Secondary Diagnoses: 
HIV 
Diabetes mellitus 
Hypertension 
Hyperlipidemia 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___. As you recall, you were admitted because of 
dizziness and multiple falls. We found that your blood pressure 
dropped when you were standing, which was most likely due to 
being dehydrated. Your blood pressure improved with IV fluids. 
Sometimes falls can be caused by problems with your heart, so we 
also did an ultrasound of your heart and the arteries of your 
neck that did not show anything concerning.

In addition, your kidney function was initially decreased. You 
had a kidney ultrasound that did not show any problems with your 
kidneys and your kidney function improved with IV fluids.

You mentioned difficulties with memory. This can be further 
worked up as an outpatient.

Best Regards,
Your ___ Team
 
Followup Instructions:
___